US06437147B1
At 0° C., 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (21.6 g (0.11 mol) was added to a solution of 3-(trifluoromethyl)phenylacetic acid (Aldrich 19,335-6, 23.0 g, 0.11 mol) and 1-hydroxybenzothiazole (21.6 g, 0.11 mol) in DCM (50 ml) and N,N-dimethylformamide (50 ml). The reaction mixture was stirred for 20 min at 0° C. A 33% solution of methylamine in ethanol (280 ml, 2.25 mol) was added. The reaction mixture was stirred for 56 hours and successively diluted with ethyl acetate (200 ml). It was washed with a 10% aqueous solution of sodium hydrogensulphate (300 ml). The aqueous phase was extracted with ethyl acetate (2×150 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (300 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (300 g), using ethyl acetate/heptane 2:1 as eluent, to give 19.8 g of N-methyl-2-(3-trifluoromethylphenyl)acetamide.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | CN(CCCN=C=NCC)C | C8H17N3
reactant | 3-(trifluoromethyl)phenylacetic acid | 0.11 mol, 23.0 g | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
reactant | 1-hydroxybenzothiazole | 0.11 mol, 21.6 g | OS1C=NC2=C1C=CC=C2 | C7H7NOS
reactant | methylamine | CN | CH5N
reactant | ethanol | 2.25 mol, 280 ml | C(C)O | C2H6O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-2-(3-trifluoromethylphenyl)acetamide | 19.8 g | CNC(CC1=CC(=CC=C1)C(F)(F)F)=O | C10H10F3NO
